US07825244B2
b. 7-[3-(4-Methyl-piperazin-1-yl)-propoxy]-4-piperidin-4-yl-quinazoline
Solid KOtBu (1.36 g, 12.1 mmol) was added in one portion under air to a homogeneous solution of 4-(7-Fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (3.33 g, 10.1 mmol), as prepared in the preceding step, and commercial 3-(4-methyl-piperazin-1-yl)-propan-1-ol (1.50 g, 9.50 mmol) in dry THF (10 mL), while stirring on an ice bath. Following KOtBu addition, the ice bath was immediately removed, and the resulting homogeneous amber solution was stirred for 6 hr. 6 M aqueous HCl (10 mL, 60 mmol) was then added in one portion, and the reaction was stirred overnight (mild bubbles were seen following HCl addition, but these subsided after 15 min). The reaction was then partitioned with 9:1 DCM/MeOH (50 mL) and 2.5 M NaOH (28 mL, 70 mmol), and the aqueous layer was extracted with 9:1 DCM/MeOH (1×50 mL). The combined organic layers were dried (Na2SO4) and concentrated by rotary evaporation at 90° C. to provide the crude title compound as a clear yellow oil (3.79 g). LC/MS (ESI): calcd mass 369.3, found 370.2 (MH)+.

reactant | KOtBu | 12.1 mmol, 1.36 g | CC(C)(C)[O-].[K+]
reactant | 4-(7-Fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 10.1 mmol, 3.33 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | 3-(4-methyl-piperazin-1-yl)-propan-1-ol | 9.50 mmol, 1.50 g | CN1CCN(CC1)CCCO | C8H18N2O
reactant | HCl | 60 mmol, 6 M, 10 mL | Cl | ClH
reactant | NaOH | 70 mmol, 2.5 M, 28 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM MeOH | 50 mL | C(Cl)Cl.CO
product | 7-[3-(4-Methyl-piperazin-1-yl)-propoxy]-4-piperidin-4-yl-quinazoline | 3.79 g | CN1CCN(CC1)CCCOC1=CC=C2C(=NC=NC2=C1)C1CCNCC1 | C21H31N5O
